US06309823B1
2. Preparation of 1-(4,5-Methylenedioxy-2-nitrophenyl) ethanol
Sodium borohydride (10 g; 0.27 mol) was added slowly to a cold, stirring suspension of 53 g (0.25 mol) of 4,5-methylenedioxy-2-nitroacetophenone in 400 mL methanol. The temperature was kept below 10° C. by slow addition of the NaBH4 and external cooling with an ice bath. Stirring was continued at ambient temperature for another two hours, at which time TLC (CH2Cl2) indicated complete conversion of the ketone. The mixture was poured into one liter of ice-water and the resulting suspension was neutralized with ammonium chloride and then extracted three times with 400 mL CH2Cl2 or EtOAc (the product can be collected by filtration and washed at this point, but it is somewhat soluble in water and this results in a yield of only ˜60%). The combined organic extracts were washed with brine, then dried with MgSO4 and evaporated. The crude product was purified from the main byproduct by dissolving it in a minimum volume of CH2Cl2 or THF(˜175 ml) and then precipitating it by slowly adding hexane (1000 ml) while stirring (yield 51 g; 80% overall). It can also be recrystallized (e.g., toluene-hexane), but this reduces the yield.

reactant | Sodium borohydride | 0.27 mol, 10 g | [BH4-].[Na+]
reactant | 4,5-methylenedioxy-2-nitroacetophenone | 0.25 mol, 53 g | CC(=O)C1=CC2=C(C=C1[N+](=O)[O-])OCO2 | C9H7NO5
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 400 mL | CO | CH4O
product | 1-(4,5-Methylenedioxy-2-nitrophenyl) ethanol | C1OC2=CC(=C(C=C2O1)C(C)O)[N+](=O)[O-] | C9H9NO5
